US04568376
2-Isopropyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran
In this example, a mixture containing 11.4 g of (3-trifluoromethylphenyl)-(2-methoxyisovaleryl)acetonitrile and 7.8 g of concentrated sulfuric acid in 50 ml of acetic acid was warmed to reflux for 30 minutes and then concentrated by evaporation under vacuum. The concentrate was mixed with diethylether, washed three times with 1N aqueous sodium hydroxide, dried over magnesium sulfate and concentrated by evaporation affording an oil. The oil was triturated in 20% (vol.) ethyl acetate:80% petroleum ether and allowed to stand overnight (14-16 hours). The solids were collected by filtration and washed three times with 20% (vol.) ethyl acetate:80% petroleum ethyl affording 2.9 g of the title compound.

reactant | (3-trifluoromethylphenyl)-(2-methoxyisovaleryl)acetonitrile | 11.4 g | FC(C=1C=C(C=CC1)C(C#N)C(C(C(C)C)OC)=O)(F)F | C15H16F3NO2
reactant | sulfuric acid | 7.8 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-Isopropyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran | C(C)(C)C1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N | C14H14F3NO2
